US06703392B2
1-[(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-pyrimidin-acetic acid
To a solution of 1-[(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-pyrimidin-acetic acid ethyl ester (1.4 g, 2.75 mmol) in a mixture dioxane/MeOH (4/3) (35 ml) was added dropwise 2M NaOH(aq) (24 ml). The resulting mixture was stirred at RT for 20 h under nitrogen. The mixture was then concentrated in vacuo, combined with water and AcOEt. The aqueous phase was acidified until pH 1 with 2N HCl, extracted three times with with CH2Cl2, the combined organic phases were dried over anhydrous MgSO4, filtered and concentrated to give the titled product (1.23 g, 93%) as yellow-green crystals.

reactant | 1-[(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-pyrimidin-acetic acid ethyl ester | 2.75 mmol, 1.4 g | C(C)OC(CC1N(C=CC=N1)C1C(C2=CC(=C(C=C2CC1)OC)OC)CC1=CC(=C(C=C1)OC)OC)=O | C29H36N2O6
reactant | NaOH | 2M, 24 ml | [OH-].[Na+]
solvent | dioxane MeOH | 35 ml | O1CCOCC1.CO
product | 1-[(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-pyrimidin-acetic acid | 1.23 g, 93% | COC=1C=C(CC2C(CCC3=CC(=C(C=C23)OC)OC)N2C(N=CC=C2)CC(=O)O)C=CC1OC | C27H32N2O6
